US07566712B2
Heat a solution of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (774 mg, 1.64 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (608 mg, 1.97 mmol (prepared essentially as described by Eastwood (2000) Tetrahedron Letters 41 (19):3705-3708), K3PO4 (2M, 1.64 mL) and Pd(PPh3)4 (76 mg, 0.07 mmol) in dioxane at 80° C. for 16 hours. Partition the reaction mixture between brine and EtOAc, dry the EtOAc layer (Na2SO4) and concentrate under reduced pressure. Flash chromatography (30% EtOAc in hexanes as eluent) yields 4-{4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a foam.

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 1.64 mmol, 774 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | K3PO4 | 2M, 1.64 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.07 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C30H31ClF4N6O2
